Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest pain, throat/swallowing discomfort
 
Major Surgical or Invasive Procedure:
Esophagogastroduodenoscopy (EGD)

 
History of Present Illness:
___ is a ___ year old woman with history of anorexia nervosa,
history of severe binging purging (in remission for some time),
anxiety, who presented to the hospital with chest/abdominal 
pain.

The patient reports that beginning two weeks prior to admission
she developed a burning, substernal chest discomfort. The pain
sometimes radiates to her left scapula. The pain is worse at
night, particularly with lying down. She feels as if there is
mucous in her chest that she has to clear. The pain is made 
worse
by any solid foods, but she denies any difficult swallowing. She
denies any exacerbation of the pain with liquids. The pain is 
not
exacerbated by exertion or respiration. The pain is associated
with nausea. No abdominal pain or change in bowel habits. No
melena or hematochezia. No fevers or chills. No rashes or joint
pain/swelling. No recent antibiotics or travel. No recent
medication changes: She had been on Effexor, but discontinued
___. Also was on olanzapine but discontinued ___.
Trialed NAC. No NSAIDs.

The patient has been on a meal plan for the past several weeks
and has been maintaining/slowly gaining weight per outpatient
records. Per outpatient provider notes, she has had difficulty
exceeding 97 pounds due to perception of increased weight. She
has had progressively difficulty continuing her meal plan due to
pain as above.

She saw her PCP this issue who started her on a PPI and Carafate
one week prior to admission with little improvement of her
symptoms. She then was referred to GI, who planned for 
outpatient
EGD and possible CT to evaluate for SMA syndrome. However, her
pain progressively worsened to the point that she was unable to
sleep at night. Her PCP prescribed ___, but the pain was so
severe that she presented to the ED for further evaluation.

She is seeking treatment for her eating disorder and had been
expressing desire to go to ___. 

Reports onset of difficulty with anxiety in late childhood/early
adolescence. The pattern is not so much o ne of worry as one of
intense physical tension and nervousness, rarely has a frank
panic attack. She denies a pattern of pervasive worry. Mother
also notes she was a very shy child and she and ___ both 
agree
that there was a significant component of social anxiety when 
she
was a teenager. She has also had OCD features through time- she
can be very particular about thinigs being in order, 
cleanliness,
and as she got older, about many things related to food, mostly
about  making sure her food was not "contaminated" by other 
foods
that were high in calories. 

She sought help for anxiety in adolescence and had medication
trials of SSRIs and SNRIs, and did not have any benefit from
them. 

Her eating problems began right after she graduated college;
before then, notes she was probably a bit more focused/concerned
about her eating, weight, and bdy shape than the average person
her age but it was after graduating that her behaviors became
problematic. It started with restricting, then she had ___ years
where she was in a serious patter of binging and purginig (by
vomiting), then returned to significantly restrictive eating. 
She
has been to inpatient eating disorder treatment several times,
most recently about ___ years ago she was at ___ and was
transferred to ___ in ___ where she stayed for 2 months,
returning home about one year ago at about 110 pounds (BMI =
17.8). Despite working intensively with a therapist, psychiatric
NP, nutritionist, and PCP, she almost immediately started 
falling
back into patterns of severely restrictive eating, and lost
weight steadily since that time. She came to the hospital with
chest/abdominal pain, no clear organic cause has been found and
the team is treating her symptomatically. Through time, she has
at times exercised intensely and excessively related to eating
disorder, denies ever using laxatives. She has not bigned or
purged in over a year, citing being started on Vyvanse as a
turning point in that regard. She has been in the process of
titrating off topiramiate, as that had been started for binging
and did not work. 

Expresses a desire to return to ___ inpatient eating
disorder unit. 

In the ED, initial vitals: 9 98.4 70 ___ 100% RA 
Exam notable for: Abd: Soft, Nontender, Nondistended with no
organomegaly; no rebound tenderness or guarding.
Labs notable for: lipase 64; BMP, CBC, LFTS wnl
Imaging: CXR without acute process
Patient given:
___ 16:06 IV Ondansetron 4 mg 
___ 16:09 PO Acetaminophen 1000 mg 
___ 17:48 PO Aluminum-Magnesium Hydrox.-Simethicone 30 mL 

___ 17:48 PO Donnatal 5 mL 
___ 17:48 PO Lidocaine Viscous 2% 10 mL

On arrival to the floor, she reported that the interventions in
the ED made no discernible impact on her discomfort. 

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and were negative. 
 
Past Medical History:
Anorexia nervosa
Bulimia nervosa (in remission)

 
Social History:
___
Family History:
Sister had problems with eating, described as an orthorexia 
syndrome.
 
Physical Exam:
Vital Signs:
24 HR Data (last updated ___ @ 901)
Temp: 97.4 (Tm 98.7), BP: 96/64 (94-99/55-64), HR: 54 (54-84),
RR: 18, O2 sat: 97% (97-100), O2 delivery: RA, Wt: 92.0 
lb/41.73kg   

Physical Exam:

GENERAL: Friendly very thin woman in bed, in no apparent
distress, mother at bedside.
EYES: PERRL. EOMI. Anicteric sclerae. 
ENT: Ears and nose without visible erythema, masses, or trauma. 
Posterior oropharynx without erythema or exudate, uvula midline.
CV: Regular rate and rhythm. Normal S1 S2, no S3, no S4. No
murmur. No JVD. 
PULM: Breathing comfortably on room air. Lungs clear to
auscultation. No wheezes or crackles. Good air movement
bilaterally. 
GI: Bowel sounds present. Abdomen non-distended, soft, 
non-tender
to palpation. No HSM appreciated.
GU: No suprapubic fullness or tenderness to palpation.
EXTR/MSK: No chest tenderness to palpation. No lower extremity
edema. Distal extremity pulses palpable throughout.
SKIN: No rashes, ulcerations, scars noted.
NEURO: Alert. Oriented to person/place/time/situation. Face
symmetric. Gaze conjugate with EOMI. Speech fluent. Moves all
limbs spontaneously. No tremors, asterixis, or other involuntary
movements observed. Normal and symmetric distal extremity
strength and light touch sensation throughout. 
PSYCH: Pleasant, cooperative. Follows commands, answer questions
appropriately. Appropriate affect.
 
Pertinent Results:
=====
Labs:
=====
___ 07:20AM BLOOD WBC-3.8* RBC-4.27 Hgb-13.9 Hct-42.2 
MCV-99* MCH-32.6* MCHC-32.9 RDW-12.2 RDWSD-44.8 Plt ___
___ 06:40AM BLOOD WBC-4.2 RBC-4.15 Hgb-13.2 Hct-40.5 MCV-98 
MCH-31.8 MCHC-32.6 RDW-12.2 RDWSD-44.1 Plt ___
___ 06:07AM BLOOD WBC-4.3 RBC-4.06 Hgb-13.0 Hct-39.8 MCV-98 
MCH-32.0 MCHC-32.7 RDW-12.3 RDWSD-44.8 Plt ___
___ 02:55PM BLOOD WBC-4.6 RBC-3.90 Hgb-12.7 Hct-38.9 
MCV-100* MCH-32.6* MCHC-32.6 RDW-12.5 RDWSD-45.8 Plt ___
___ 02:55PM BLOOD Neuts-50.7 ___ Monos-9.3 Eos-0.4* 
Baso-0.4 Im ___ AbsNeut-2.35 AbsLymp-1.81 AbsMono-0.43 
AbsEos-0.02* AbsBaso-0.02
___ 07:20AM BLOOD Plt ___
___ 06:40AM BLOOD Plt ___
___ 06:07AM BLOOD Plt ___
___ 06:07AM BLOOD ___ PTT-25.3 ___
___ 02:55PM BLOOD Plt ___
___ 07:20AM BLOOD Glucose-85 UreaN-15 Creat-0.7 Na-141 
K-4.9 Cl-102 HCO3-28 AnGap-11
___ 06:40AM BLOOD Glucose-85 UreaN-14 Creat-0.8 Na-144 
K-4.2 Cl-105 HCO3-29 AnGap-10
___ 06:07AM BLOOD Glucose-85 UreaN-14 Creat-0.8 Na-144 
K-3.9 Cl-104 HCO3-29 AnGap-11
___ 02:55PM BLOOD Glucose-87 UreaN-14 Creat-0.7 Na-145 
K-3.9 Cl-105 HCO3-27 AnGap-13
___ 06:07AM BLOOD ALT-34 AST-25 AlkPhos-35 TotBili-0.6
___ 02:55PM BLOOD ALT-35 AST-24 AlkPhos-37 TotBili-0.6
___ 07:20AM BLOOD Calcium-9.2 Phos-3.2 Mg-2.1
___ 06:40AM BLOOD Calcium-9.3 Phos-3.2 Mg-2.1 Iron-82 
Cholest-178
___ 06:07AM BLOOD Albumin-4.4 Calcium-9.6 Phos-3.9 Mg-2.1
___ 02:55PM BLOOD Albumin-4.8 Calcium-9.7 Phos-3.5 Mg-2.0
___ 06:40AM BLOOD calTIBC-317 Ferritn-39 TRF-244
___ 06:40AM BLOOD Triglyc-62 HDL-74 CHOL/HD-2.4 LDLcalc-92
___ 06:40AM BLOOD TSH-0.88
___ 06:40AM BLOOD ___ CRP-0.3
___ 06:40AM BLOOD SED RATE-PND

=====
Micro:
=====
___ Urine culture: 
MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT WITH SKIN
AND/OR GENITAL CONTAMINATION.

===============
Images and studies:
===============
___ Transesophageal echocardiogram
IMPRESSION: Mild bileaflet mitral valve prolapse with mild 
mitral regurgitation. Normal left ventricular wall thickness and 
biventricular cavity sizes and regional/global systolic 
function. Very small circumferential pericardial effusion 
without echocardiographic evidence for tamponade physiology.

___ EGD: 
Impressions: Normal mucosa in whole esophagus, whole stomach, 
whole examined duodenum. Biopsies taken for pathology.

Pathology final report: PATHOLOGIC DIAGNOSIS:
1. Mid esophagus, biopsy: Squamous mucosa within normal limits. 
2. Stomach, biopsy: Fundic mucosa within normal limits

___ CXR: No acute cardiopulmonary process

___ ECG: Sinus bradycardia (borderline)

ECHO:
IMPRESSION: Mild bileaflet mitral valve prolapse with mild 
mitral regurgitation. Normal left
ventricular wall thickness and biventricular cavity sizes and 
regional/global systolic function. Very
small circumferential pericardial effusion without 
echocardiographic evidence for tamponade
physiology.
 
Brief Hospital Course:
# Chest pain
# Throat/swallowing discomfort
Two-week history of constant chest pain and throat discomfort. 
Physical exam unremarkable other than patient's low body weight 
(70% of IBW). An extensive work-up was negative for anything of 
concern including labs, EGD, EKG, TTE, CXR. CT chest was not 
done because of the very low pre-test probability of finding 
something that could explain her history of symptoms. And 
evaluation for SMA syndrome was not pursued and shouldn't be 
even if believed as an entity since the proposed treatment is 
weight gain which the patient should pursue anyway. We believe 
the symptoms are most likely related to her preparing for the 
prospect of inpatient eating disorder treatment because the 
symptoms can provide a conscious or unconscious means of 
maintaining control. The patient and mother asked if these 
issues could be communicated to the inpatient program she was 
pursuing specifically so that she could have some 
flexibility/control over her eating that she might otherwise not 
have.
PLAN:
- discontinue the PPI, sucralfate, and pain reliever medications 
(which have had no effect)
- taper off topiramate next week
- very strongly recommend discontinuing vyvanse, which is an 
appetite suppressant and directly counters the goals of gaining 
weight

# Anorexia nervosa, severe
# Bulimia nervosa, in remission
Patient has very extensive hx of serious eating disorder 
including multiple inpt programs, outpt programs. Currently has 
involved PCP, ___, psych NP, nutritionist but still 
failing to gain wt, dangerously underweight. She is at great 
risk of organ injury and death if she does not gain weight. Pt 
and family pursuing transfer to ___ inpatient program.
PLAN:
- inpatient eating disorder program
- also see above
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Zolpidem Tartrate ___ mg PO QHS:PRN Insomnia 
2. Sucralfate 1 gm PO QID 
3. Omeprazole 20 mg PO DAILY 
4. Topiramate (Topamax) 50 mg PO DAILY 
5. Multivitamins 1 TAB PO DAILY 
6. Vyvanse (lisdexamfetamine) 50 mg oral DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever 
maximum 3  grams per day  
2.  Omeprazole 20 mg PO BID 
8 week trial through ___.  Multivitamins 1 TAB PO DAILY  
4.  Sucralfate 1 gm PO QID 
through ___.  Topiramate (Topamax) 50 mg PO DAILY  
6.  Vyvanse (lisdexamfetamine) 50 mg oral DAILY  
7.  Zolpidem Tartrate ___ mg PO QHS:PRN Insomnia  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Chest pain
Throat and swallowing discomfort
Anorexia Nervosa, severe
Bulimia nervosa, in remission
Unspecified anxiety disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted for chest pain and throat discomfort. You were 
also evaluated in regards to your struggles with eating and 
efforts to gain weight.

In regards to the chest pain and throat/swallowing issues, you 
underwent a battery of tests and evaluations in addition to 
physical exam and careful evaluation of the history. While the 
etiology of the discomfort is not clear, we were able to more or 
less rule out most potential concerning pathologies that would 
be of significant risk. 

The symptoms should be monitored and we recommend trying 
over-the-counter pain relievers as well as pursuits that are 
stress relievers. Getting intensive treatment for eating 
disorders is very stressful and these symptoms may be related. 
The symptoms may very well go away on their own over time. If 
the severity worsens or things otherwise significantly change, 
we recommend you seek evaluation first by a physician who knows 
you well if possible, or come back to the hospital.

You were also evaluated by members of our nutritionist, social 
work, and psychiatry teams in regards to your eating and weight 
loss/gain history. We strongly recommend inpatient treatment. We 
have arranged for treatment at ___.

Sincerely,
Your ___ Team
 
Followup Instructions:
___